US04751295
7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-trimethylammonio-1-propen-1-yl)-3-cephem-4-carboxylate (I-1D)
To a solution of diphenylmethyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate (IX-1) (Z/E=2/1, 490 mg, 0.68 mmole) in ethyl acetate (14 ml) was added a 0.1M trimethylamine solution in ether (13.6 ml) in one portion. The mixture was stirred for 10 minutes and evaporated to dryness, and the residue was triturated with ether (20 ml). The resulting solid (490 mg) was added to trifluoroacetic acid (0.2 ml) containing one drop of anisole. After 1.5 hours' stirring, the mixture was evaporated to dryness under reduced pressure and the residual oil was triturated with ether (20 ml). The resulting precipitate was collected by filtration and dissolved in H2O (20 ml). Some insolubles were removed, and the aqueous solution was eluted on a C18 reverse phase column (the packing of PrepPAK-500/C18 cartridge, Waters' 30 ml) using water as eluant. Fractions containing the desired compound were combined and concentrated to a small volume and lyophilized to afford 30 mg (9.2%) of the title compound (I-1D) (8/E=1/1) as a colorless amorphous powder, melting at >150° C. (dec.).

reactant | diphenylmethyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate | 0.68 mmole, 490 mg | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CCI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C28H25IN6O5S2
reactant | trimethylamine | 0.1M | CN(C)C | C3H9N
solvent | ethyl acetate | 14 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | 13.6 ml | CCOCC | C4H10O
product | 7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-trimethylammonio-1-propen-1-yl)-3-cephem-4-carboxylate | 30 mg, 9.2% | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC[N+](C)(C)C)C(=O)[O-])C1=O)=NOC | C18H23N7O5S2
